US05972965
To a solution of NaH (60% oil, 28 mg), 5-(4,5-diphenyloxazol-2-yl)pyrrolidin-2-one (0.15 g) and sodium iodide (catalytic amount) in THF (1 ml) was added a solution of 3-methoxybenzyl chloride (0.11 g) in THF (2 ml). After being stirred for 4 days at room temperature, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine. The dried solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel to give 1-(3-methoxybenzyl)-5-(4,5-diphenyloxazol-2-yl)pyrrolidin-2-one (0.14 g). MS (m/z): 425 (M+ +1) NMR (CDCl3, δ): 2.32-2.96 (4H, m), 3.65 (3H, s), 4.32 (1H, d, J=14.8 Hz), 4.70 (1H, d, J=14.8 Hz), 4.78 (1H, m), 6.68-6.82 (3H, m), 7.13 (1H, t, J=7.8 Hz), 7.33-7.48 (6H, m), 7.56-7.61 (4H, m)

reactant | NaH | 28 mg | [H-].[Na+]
reactant | 5-(4,5-diphenyloxazol-2-yl)pyrrolidin-2-one | 0.15 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1CCC(N1)=O | C19H16N2O2
reactant | sodium iodide | [I-].[Na+]
reactant | 3-methoxybenzyl chloride | 0.11 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 1-(3-methoxybenzyl)-5-(4,5-diphenyloxazol-2-yl)pyrrolidin-2-one | 0.14 g | COC=1C=C(CN2C(CCC2C=2OC(=C(N2)C2=CC=CC=C2)C2=CC=CC=C2)=O)C=CC1 | C27H24N2O3
